US08791123B2
Step A: Preparation of (R)-ethyl 5-(2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
Ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate (Preparation B, 0.51 g, 2.26 mmol), (R)-2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidine hydrochloride (0.610 g, 2.26 mmol) and diisopropylethylamine (1.12 mL, 6.78 mmol) were suspended in isopropanol (2.5 mL) and heated to 120° C. for 24 hours. The reaction mixture was purified by reverse phase chromatography eluting with 0-75% acetonitrile/water to yield the title compound (0.92 g, 96.4% yield). MS (apci) m/z=423.0.0 (M+H).

reactant | Ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate | 2.26 mmol, 0.51 g | ClC1=NC=2N(C=C1)N=CC2C(=O)OCC | C9H8ClN3O2
reactant | (R)-2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidine hydrochloride | 2.26 mmol, 0.610 g | Cl.FC=1C=CC(=C(C1)[C@@H]1NCCC1)C(F)(F)F
reactant | diisopropylethylamine | 6.78 mmol, 1.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | 2.5 mL | C(C)(C)O | C3H8O
product | (R)-ethyl 5-(2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.92 g, 96.4% yield | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC)C(F)(F)F | C20H18F4N4O2
